* Assignment 2.4 - DC Sweep Analysis for Ideal Diode

V1 in 0 0
R1 in a 1k
D1 a 0 DIDEAL

.model DIDEAL D(Ron=1m Roff=1G Vfwd=0)

.dc V1 -2 2 0.01
.end
