* Assignment 2.4 - 1N4148 Practical Diode DC Sweep Analysis

V1 in 0 0
R1 in a 1k
D1 a 0 DREAL

.model DREAL D(Is=2n N=1.9 Rs=0.6 Cjo=2p)

.dc V1 -2 2 0.01
.end
